US04810713
1-[3-(4-Chlorophenoxy)propyl]-α,α-bis(4-fluorophenyl)-4-piperidinemethanol
A mixture of 3.0 g (0.01 mole) of [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol, 2.0 g (0.01 mole) of 1chloro-4-(3-chloropropoxy)benzene, 5.3 g (0.05 mole) of anhydrous sodium carbonate and 0.3 g of potassium iodide in 100 ml of 1-butanol was refluxed for 20 hr to give, after working up as in Example 1 (recrystallizing the free base from isopropyl alcohol), 1.7 g (36%) of white solid, m.p. 92°-93° C.

reactant | [α,α-bis(p-fluorophenyl)]-4-piperidinemethanol | 0.01 mole, 3.0 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 1chloro-4-(3-chloropropoxy)benzene | 0.01 mole, 2.0 g | ClC1=CC=C(C=C1)OCCCCl | C9H10Cl2O
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 1-[3-(4-Chlorophenoxy)propyl]-α,α-bis(4-fluorophenyl)-4-piperidinemethanol | ClC1=CC=C(OCCCN2CCC(CC2)C(O)(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1 | C27H28ClF2NO2
